US07122546B2
4-Ethyl-3-[2-(3-fluoro-phenyl)-imidazol-1-ylmethyl]-6-methoxy-pyridazine (Compound 41)
A solution of 6-chloro-4-ethyl-3-[2-(3-fluoro-phenyl)-imidazol-1-ylmethyl]-pyridazine (73.3 mg, 0.23 mmol) and sodium methoxide (40 mg, 0.74 mmol) in methanol (5 mL) is heated under N2 for 5 hours. After cooling, water (10 mL) is added, followed by extraction with ethyl acetate (3×30 mL). The solvent is removed in vacuo and PTLC separation gives the title compound. LC-MS (M+1) 313.1 (retention time: 0.99 min).

reactant | 6-chloro-4-ethyl-3-[2-(3-fluoro-phenyl)-imidazol-1-ylmethyl]-pyridazine | 0.23 mmol, 73.3 mg | ClC1=CC(=C(N=N1)CN1C(=NC=C1)C1=CC(=CC=C1)F)CC | C16H14ClFN4
reactant | sodium methoxide | 0.74 mmol, 40 mg | C[O-].[Na+]
reactant | water | 10 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 4-Ethyl-3-[2-(3-fluoro-phenyl)-imidazol-1-ylmethyl]-6-methoxy-pyridazine | C(C)C1=C(N=NC(=C1)OC)CN1C(=NC=C1)C1=CC(=CC=C1)F | C17H17FN4O
